### PR TITLE
feat: Add contraction result for real Lorentz tensors

### PR DESCRIPTION
**Pull request by jstoobysmith**
Add a result related to contractions of real Lorentz tensors.

### CODE REVIEW

File: Physlib/Relativity/Tensors/Contraction/Basis.lean [hunk 1]
```diff
@@ -226,6 +226,15 @@ lemma contrT_basis_repr_apply_eq_sum_fin {n : ℕ} {c : Fin (n + 1 + 1) → C} {
     Fintype.sum_prod_type]
   simp
 
+
+lemma contrT_basis {n : ℕ} {c : Fin (n + 1 + 1) → C} {i j : Fin (n + 1 + 1)}
+    (h : i ≠ j ∧ S.τ (c i) = c j) (b : ComponentIdx (S := S) c):
+    contrT n i j h (basis c b) =
+    Pure.contrPCoeff i j h (Pure.basisVector c b) •
+      basis (c ∘ Pure.dropPairEmb i j) (b.dropPair i j) := by
+  simp [basis_apply, contrT_pure, Pure.contrP, Pure.dropPair_basisVector]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Contraction/Basis.lean]:
```suggestion
  simp only [basis_apply, contrT_pure, Pure.contrP, Pure.dropPair_basisVector]
```

File: Physlib/Relativity/Tensors/Contraction/Basis.lean [hunk 2]
```diff
@@ -226,6 +226,15 @@ lemma contrT_basis_repr_apply_eq_sum_fin {n : ℕ} {c : Fin (n + 1 + 1) → C} {
...
+  rfl
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Contraction/Basis.lean:236]: Proof ending in rfl usually means there's something not quite right about the definitions, but it's fine since they'll be getting adjusted soon.

File: Physlib/Relativity/Tensors/Contraction/Pure.lean [hunk 3]
```diff
@@ -79,6 +79,26 @@ lemma dropPairEmb_eq_succAbove_succAbove (i : Fin (n + 1 + 1)) (j : Fin (n + 1))
       simp_all
       try omega
 
+lemma dropPairEmb_eq_predAbove {i j : Fin (n + 1 + 1)} (hij : i ≠ j) :
+    dropPairEmb i j = fun x => (i.succAbove (((Fin.predAbove 0 i).predAbove j).succAbove x)) := by
+  rcases Fin.eq_self_or_eq_succAbove i j with rfl | ⟨j, rfl⟩
+  · ext x
+    grind
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Contraction/Pure.lean]:
```suggestion
  · contradiction
```

File: Physlib/Relativity/Tensors/Contraction/Pure.lean [hunk 4]
```diff
@@ -79,6 +79,26 @@ lemma dropPairEmb_eq_succAbove_succAbove (i : Fin (n + 1 + 1)) (j : Fin (n + 1))
...
+    by_cases hi : i = 0
+    · subst hi
+      simp
+    simp [hi]
+    simp [Fin.predAbove, Fin.lt_def, Fin.succAbove, Fin.val_castSucc]
+    split_ifs
+    · grind
+    · simp
+    · simp
+    · grind
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Contraction/Pure.lean]:
```suggestion
  · ext x
    rw [dropPairEmb_eq_succAbove_succAbove, Function.comp_apply]
    congr
    rcases eq_or_ne i 0 with rfl | hi
    · rfl
    · rw [Fin.predAbove_zero_of_ne_zero hi]
      rcases lt_or_ge (i.pred hi).castSucc (i.succAbove j) with h | h
      · rw [Fin.predAbove_of_castSucc_lt _ _ h, Fin.pred_succAbove]
        rw [← Fin.lt_succAbove_iff_le_castSucc]
        exact lt_of_le_of_ne ((Fin.castSucc_pred_lt_iff hi).mp h) hij
      · rw [Fin.predAbove_of_le_castSucc _ _ h, Fin.castPred_succAbove]
        rw [Fin.castSucc_lt_iff_succ_le, ← Fin.succAbove_lt_iff_succ_le]
        exact (Fin.le_castSucc_pred_iff hi).mp h
```
Slightly shorter and should have better performance

File: Physlib/Relativity/Tensors/RealTensor/Basic.lean [hunk 5]
```diff
@@ -234,5 +236,73 @@ lemma contrT_basis_repr_apply_eq_fin {n d: ℕ} {c : Fin (n + 1 + 1) → realLor
...
 
+/-!
+
+## Contractions and to Field
+
+-/
+
+attribute [-simp] Fintype.sum_sum_type
+
+lemma contrPCoeff_basis {d : ℕ} {c : Fin n → realLorentzTensor.Color} (i j : Fin n)
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Basic.lean]:
```suggestion
lemma contrPCoeff_basis {d n : ℕ} {c : Fin n → realLorentzTensor.Color} (i j : Fin n)
```

File: Physlib/Relativity/Tensors/RealTensor/Basic.lean [hunk 6]
```diff
@@ -234,5 +236,73 @@ lemma contrT_basis_repr_apply_eq_fin {n d: ℕ} {c : Fin (n + 1 + 1) → realLor
...
+    (hij : i ≠ j ∧ (realLorentzTensor d).τ (c i) = c j)
+    (b : ComponentIdx (S := realLorentzTensor d) c) :
+    Pure.contrPCoeff i j hij (Pure.basisVector c b) = if b i = b j then 1 else 0 := by
+  simp [Pure.contrPCoeff, Pure.basisVector]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Basic.lean]:
```suggestion
  simp only [Pure.contrPCoeff, Monoidal.tensorUnit_obj, Rep.tensorUnit_V, Rep.tensorUnit_ρ,
    Functor.comp_obj, Discrete.functor_obj_eq_as, Function.comp_apply, Pure.basisVector]
```

File: Physlib/Relativity/Tensors/RealTensor/Basic.lean [hunk 7]
```diff
@@ -234,5 +236,73 @@ lemma contrT_basis_repr_apply_eq_fin {n d: ℕ} {c : Fin (n + 1 + 1) → realLor
...
+  suffices h : ∀ c, ∀ c1,  (hc : (realLorentzTensor d).τ c = c1) →
+    (realLorentzTensor d).castToField ((ConcreteCategory.hom
+    ((realLorentzTensor d).contr.app { as :=c }))
+    (((realLorentzTensor d).basis c) b1 ⊗ₜ[ℝ]
+      (ConcreteCategory.hom ((realLorentzTensor d).FD.map (eqToHom (by simp_all))))
+      (((realLorentzTensor d).basis c1) b2))) =
+    if b1 = b2 then 1 else 0 by
+    exact h (c i) (c j) hij.2
+  intro c c1 hc
+  subst hc
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Basic.lean]:
```suggestion
  rintro c c1 rfl
```

File: Physlib/Relativity/Tensors/RealTensor/Basic.lean [hunk 8]
```diff
@@ -234,5 +236,73 @@ lemma contrT_basis_repr_apply_eq_fin {n d: ℕ} {c : Fin (n + 1 + 1) → realLor
...
+      congr
+      ext x
+      simp [ComponentIdx.dropPair]
+      rw [Pure.dropPairEmb_eq_predAbove h.1]
+    · simp_all
+    · simp_all
+    · rfl
+  · simp
+  · simp [Finset.smul_sum, h]
+  · simp [h1, h2, Finset.sum_add_distrib]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Basic.lean]:
```suggestion
    split_ifs with h₁ _ h₂
    · rw [permT_basis]
      congr
      ext x
      simp only [Function.comp_apply, ComponentIdx.dropPair, id_eq, basisIdxCongr_eq_refl,
        Equiv.refl_apply]
      rw [Pure.dropPairEmb_eq_predAbove h.1]
    · symm at h₁; contradiction
    · symm at h₂; contradiction
    · rfl
  · simp
  · simp [Finset.smul_sum, h]
  · simp [h1, h2, Finset.sum_add_distrib]
```

File: Physlib/Relativity/Tensors/RealTensor/Basic.lean [hunk 9]
```diff
@@ -234,5 +236,73 @@ lemma contrT_basis_repr_apply_eq_fin {n d: ℕ} {c : Fin (n + 1 + 1) → realLor
...
+
+lemma contrT_toField {d} (c : Fin 2 → Color)
+    (h : 0 ≠ 1 ∧ (realLorentzTensor d).τ (c 0) = c 1) (t : ℝT(d, c)) :
+    (contrT 0 0 1 h t).toField = ∑ (μ : Fin 1 ⊕ Fin d), {t | [μ] [μ]}ᵀ.toField := by
+  rw [contrT_eq_sum_evalT]
+  simp only [map_sum, Tensorial.self_toTensor_apply]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Basic.lean]:
```suggestion
  rw [contrT_eq_sum_evalT, map_sum, Tensorial.self_toTensor_apply]
```

File: Physlib/Relativity/Tensors/Basic.lean [hunk 10]
```diff
@@ -825,6 +826,31 @@ lemma permT_basis_repr_symm_apply {n m : ℕ} {c : Fin n → C} {c1 : Fin m →
...
 
+lemma permT_basis {n m : ℕ} {c : Fin n → C} {c1 : Fin m → C}
+    {σ : Fin m → Fin n} (h : PermCond c c1 σ)
+    (b : ComponentIdx c) :
+    (permT σ h) (basis (S := S) c b) = basis c1 (fun i =>
+      basisIdxCongr (by simp [h.2]) (b (σ i))) := by
+  apply (basis c1).repr.injective
+  ext b'
+  rw [permT_basis_repr_symm_apply]
+  simp [Finsupp.single_apply]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Basic.lean]:
```suggestion
  simp only [Basis.repr_self, Finsupp.single_apply]
```

File: Physlib/Relativity/Tensors/Basic.lean [hunk 11]
```diff
@@ -825,6 +826,31 @@ lemma permT_basis_repr_symm_apply {n m : ℕ} {c : Fin n → C} {c1 : Fin m →
...
+  simp only [eq_iff_iff]
+  constructor
+  · intro h
+    rw [h]
+    ext i
+    simp only [basisIdxCongr_apply_apply]
+    refine Eq.symm (ComponentIdx.congr_right b' i (PermCond.inv σ _ (σ i)) ?_)
+    simp [PermCond.apply_inv_apply]
+  · intro h
+    rw [← h]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Basic.lean]:
```suggestion
  · rintro rfl
```

File: Physlib/Relativity/Tensors/Evaluation.lean [hunk 12]
```diff
@@ -135,6 +140,14 @@ lemma evalT_pure {n : ℕ} {c : Fin (n + 1) → C} (i : Fin (n + 1))
   conv_rhs => rw [← PiTensorProduct.lift.tprod]
   rfl
 
+lemma evalT_basis {n : ℕ} {c : Fin (n + 1) → C} (i : Fin (n + 1))
+    (b : ComponentIdx c)
+    (x : basisIdx (c i)) :
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Evaluation.lean]:
```suggestion
    (b : ComponentIdx c) (x : basisIdx (c i)) :
```

File: Physlib/Relativity/Tensors/Evaluation.lean [hunk 13]
```diff
@@ -135,6 +140,14 @@ lemma evalT_pure {n : ℕ} {c : Fin (n + 1) → C} (i : Fin (n + 1))
...
+    evalT i x (basis (S := S) c b) = if b i = x then basis (c ∘ i.succAbove)
+      (fun j => b (i.succAbove j)) else 0 := by
+  simp [basis_apply, evalT_pure, Pure.evalP, Pure.evalPCoeff_basisVector]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Evaluation.lean]:
```suggestion
  simp only [basis_apply, evalT_pure, Pure.evalP, Pure.evalPCoeff_basisVector, ite_smul, one_smul,
    zero_smul]
```

**Review by morrison-daniel — CHANGES_REQUESTED** [review]

File: Physlib/Relativity/Tensors/Contraction/Basis.lean (hunk 2 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Contraction/Basis.lean:236]: Ok, I didn't know this - this is good to know!

**Comment by jstoobysmith** [comment]
@morrison-daniel Made your requested changes here.

**Review by morrison-daniel — APPROVED** [review]
